US06339064B1
3-Chloro-4-(4-nitrilo-butoxy)-benzoic acid
A solution of 3-Chloro-4-(4-nitrilo-butoxy)-benzoic acid methyl ester (6.24 g, 24.6 mmol in THF (100 ml) and methanol (100 ml) was treated with 5 N sodium hydroxide solution (35 ml) with stirring at room temperature for 1 h. The reaction mixture was concentrated in vacuo, diluted with water, and acidified to pH 1 with 5 N hydrochloric acid. The resulting suspension was extracted with ethyl acetate. The organic layer was dried (MgSO4), filtered, and concentrated in vacuo. The resulting off white solid was triturated with hot petroleum ether, cooled and filtered to give 5.58 g (95%) of the title compound as a white solid mp 150° C.; 1H NMR (CDCl3) δ2.22-2.28 (m, 2H), 2.69 (t, J=7.0 Hz, 2H), 3.90 (s, 3H), 4.23 (t, J=5.5 Hz, 2H), 6.97 (d, J=8.6 Hz, 1H), 8.01 (dd, J=8.6, 2.2 Hz, 1H), 8.14 (d, J=2.0 Hz, 1H). IR (KBr) 3400, 2200, 1700, 1600, 1450, 1275 and 1050 cm−1, mass spectrum (EI), m/z 239/241. Anal. Calcd. for C11H10ClNO3: C, 55.13; H, 4.21; N, 5.85. Found: C, 54.84; H, 4.01; N, 5.69.

reactant | 3-Chloro-4-(4-nitrilo-butoxy)-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)OCCCC#N)Cl)=O | C12H12ClNO3
reactant | methanol | 100 ml | CO | CH4O
reactant | sodium hydroxide | 5 N, 35 ml | [OH-].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-Chloro-4-(4-nitrilo-butoxy)-benzoic acid | 5.58 g, 95% | ClC=1C=C(C(=O)O)C=CC1OCCCC#N | C11H10ClNO3
